US05773388
Synthesis of 1-Choro-1,1-difluoro-3-ethoxymethylene-2,4-pentanedione (Compound No. 203)
A mixed solution containing 50 g of 1-chloro-1,1-difluoro-2,4-pentanedione, 60 g of ethyl orthoformate and 82 g of acetic anhydride was refluxed with stirring for 2 hours. After a Dean-Stark apparatus (water separator) was fixed, the solution was refluxed for additional 4 hours, while about 100 ml of water was removed. After it was allowed to cool, vacuum distillation was conducted to obtain 32.2 g of the desired product as a pale red liquid. Boiling point 95°-118° C./1.6 mmHg.

reactant | 1-chloro-1,1-difluoro-2,4-pentanedione | 50 g | ClC(C(CC(C)=O)=O)(F)F | C5H5ClF2O2
reactant | ethyl orthoformate | 60 g | C(OCC)([O-])[O-]
reactant | acetic anhydride | 82 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | about 100 ml | O | H2O
product | 1-Choro-1,1-difluoro-3-ethoxymethylene-2,4-pentanedione | 32.2 g | ClC(C(C(C(C)=O)=COCC)=O)(F)F | C8H9ClF2O3
